US07560463B2
Add dropwise 1.0 M BBr3 in heptane (1.35 mL, 1.35 mmol) to a suspension of (±)-(trans)-4-[2-(4-methoxyphenyl)ethylamino]cyclohexanol (Part A, 153.2 mg, 0.61 mmol) in anhydrous CH2C12 (5.0 mL) at 0° C. Add another 1.0 mL of CH2Cl2 when the compound precipitates out. Stir the mixture at 0° C. for 30 minutes and at room temperature for 2 hours. Quench the reaction with 5 drops of H2O and concentrate. Purify the residue on an SCX column, washing with MeOH and then eluting with 2.0 M NH3 in MeOH to yield (±)-(trans)-4-[2-(4-hydroxycyclohexylamino)ethyl]phenol (121.2 mg).

reactant | BBr3 | 1.0 M | B(Br)(Br)Br | BBr3
reactant | heptane | 1.35 mmol, 1.35 mL | CCCCCCC | C7H16
reactant | (±)-(trans)-4-[2-(4-methoxyphenyl)ethylamino]cyclohexanol | 0.61 mmol, 153.2 mg | COC1=CC=C(C=C1)CCN[C@@H]1CC[C@H](CC1)O | C15H23NO2
solvent | CH2Cl2 | 1.0 mL | C(Cl)Cl | CH2Cl2
product | (±)-(trans)-4-[2-(4-hydroxycyclohexylamino)ethyl]phenol | 121.2 mg | O[C@@H]1CC[C@H](CC1)NCCC1=CC=C(C=C1)O | C14H21NO2
